US06313094B1
[Process 1] Boc-Isoleucinol [Boc-Ileol]
In 5 ml of 1,2-dimethoxyethane (DME), 1.201 g of Boc-Ile-OH.1/2H2O was dissolved and 550 μl of N-methylmorpholine and 650 μl of isobutyl chloroformate were successively added dropwise at −15° C. After stirring for 1 min, the formed N-methylmorpholine hydrochloride was filtered off and washed twice with 2.5 ml each of DME. The filtrate and washings were combined and 284 mg of sodium borohydride in 2.5 ml of water was added in one portion. After 30 sec, 125 ml of water was added and the mixture was extracted with 25 ml of ethyl acetate and dried over anhydrous sodium sulfate. The dried solution was evaporated under reduced pressure to give 1.040 g of the title compound.

reactant | Boc-Ile-OH | 1.201 g | N([C@@H]([C@@H](C)CC)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | N-methylmorpholine | 550 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 650 μl | ClC(=O)OCC(C)C | C5H9ClO2
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
product | Boc-Isoleucinol | 1.040 g | C(=O)(OC(C)(C)C)N[C@@H]([C@@H](C)CC)CO | C11H23NO3
